US06191127B1
G) 2-(2-Hydroxyethyl)-1,4-benzoxazin-3-one
2.18 g of 2-aminophenol and 1.1 equivalents of 2-bromo-γ-butyrolactone are mixed in 25 ml of DMF with 4 g of potassium carbonate. After 6 hours, it is heated to 75° C., poured onto water, extracted with ethyl acetate, the organic phase is dried with sodium sulfate and concentrated by evaporation. 40% yield results.

reactant | 2-aminophenol | 2.18 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | 2-bromo-γ-butyrolactone | 1.1 equivalents | BrC1C(=O)OCC1 | C4H5BrO2
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-(2-Hydroxyethyl)-1,4-benzoxazin-3-one | 40% yield | OCCC1OC2=C(NC1=O)C=CC=C2 | C10H11NO3
